US05220042
Milligrams of 2,2'-pentamethylenebis(3,6-dimethoxy-1,4-benzoquinone) dissolved in 7 ml of methanol, was treated with 2N-sodium hydroxide, and then warmed at about 90° C. for 30 minutes. After cooling, the solution was adjusted to pH 3 with 6N-hydrochloric acid, and extracted with the mixed solvent of 150 ml of ethyl acetate-ethyl ether (1:1). The organic layer was washed twice with water and twice with an aqueous solution saturated with sodium chloride, and concentrated under reduced pressure to give 203 mg of 2,2'-pentamethylenebis(3,6-dihydroxy-1,4-benzoquinone). Yellow powdery substance.

reactant | 2,2'-pentamethylenebis(3,6-dimethoxy-1,4-benzoquinone) | COC1=C(C(C(=CC1=O)OC)=O)CCCCCC=1C(C(=CC(C1OC)=O)OC)=O | C21H24O8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
product | 2,2'-pentamethylenebis(3,6-dihydroxy-1,4-benzoquinone) | 203 mg | OC1=C(C(C(=CC1=O)O)=O)CCCCCC=1C(C(=CC(C1O)=O)O)=O | C17H16O8
